US07700633B2
A mixture of N-(2-benzyloxy-5-nitrophenyl)-formamide (9.0 g, 33 mmol), 5% Pt/C (3.1 g) and EtOH at 65° C. is stirred under an atmosphere of H2 for 19 h at ambient temperature. The mixture is filtered through Celite, washed with EtOH and the filtrate is concentrated at reduced pressure. The resulting solid is washed with MTBE several times to afford N-(5-amino-2-benzyloxyphenyl)-formamide as a white solid: (M−H)−=241.1.

reactant | N-(2-benzyloxy-5-nitrophenyl)-formamide | 33 mmol, 9.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])NC=O | C14H12N2O4
catalyst | Pt/C | 3.1 g | [Pt] | Pt
solvent | EtOH | CCO | C2H6O
product | N-(5-amino-2-benzyloxyphenyl)-formamide | NC=1C=CC(=C(C1)NC=O)OCC1=CC=CC=C1 | C14H14N2O2
